US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(2-oxoimidazolidin-1-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
0.1 g (0.257 mmol) of N-{(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-[3-(2-chloroethyl)ureido]propyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide is dissolved in 5 mL of dimethylformamide and, after the addition of 50 mg (0.45 mmol) of potassium tert-butoxide, stirred for 5 hours at 40° C. Then the mixture is poured onto ice water and extracted with dichloromethane. The combined organic extracts are dried over sodium sulfate and concentrated by evaporation. The crude product is triturated with diethyl ether and suction filtered. Yield: 61%; Rf value: 0.70 (silica gel; dichloromethane/ethanol=4:1); C26H29ClN6O3 (509.01); mass spectrum: (M+H)+=509/511 (chlorine isotope) and (M−H)−=507/509 (chlorine isotope).

reactant | N-{(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-[3-(2-chloroethyl)ureido]propyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | 0.257 mmol, 0.1 g | ClC1=CC2=C(NC(=N2)[C@H](CCNC(=O)NCCCl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C26H30Cl2N6O3
reactant | potassium tert-butoxide | 0.45 mmol, 50 mg | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(2-oxoimidazolidin-1-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 61% | ClC1=CC2=C(NC(=N2)[C@H](CCN2C(NCC2)=O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C26H29ClN6O3
